US07173031B2
C) 3-Fluoro-4-(5-methyl-6-(2-morpholinoethoxy)pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-5-methyl-6-(2-morpholinoethoxy)pyrrolo[2,1-f][1,2,4]triazine (54 mg, 0.13 mmol) in a mixture of 0.8 mL of THF and 1.2 mL of MeOH were added NH4Cl (70 mg, 1.3 mmol) and Zn powder (85 mg, 1.3 mmol). The suspension was allowed to stir at room temperature for 2 h. Both HPLC analysis and LC-MS analysis indicated the completion of the reaction and the solid was thus filtered off. After concentration of the filtrate, the residue was taken into 10% MeOH in CH2Cl2. The solution was then filtered again and the filtrate was concentrated in vaco to provide the title compound (50 mg, 92%). MS(ESI+) m/z 388.4 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-5-methyl-6-(2-morpholinoethoxy)pyrrolo[2,1-f][1,2,4]triazine | 0.13 mmol, 54 mg | FC1=C(OC2=NC=NN3C2=C(C(=C3)OCCN3CCOCC3)C)C=CC(=C1)[N+](=O)[O-] | C19H20FN5O5
reactant | NH4Cl | 1.3 mmol, 70 mg | [NH4+].[Cl-]
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.2 mL | CO | CH4O
catalyst | Zn | 1.3 mmol, 85 mg | [Zn] | Zn
product | 3-Fluoro-4-(5-methyl-6-(2-morpholinoethoxy)pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine | 50 mg, 92% | FC=1C=C(C=CC1OC1=NC=NN2C1=C(C(=C2)OCCN2CCOCC2)C)N | C19H22FN5O3
